US05965741
To a solution of 2-hydroxy-3-pivaloyloxybenzaldehyde (1.0 g, 4.5 mmole) in DMF (5 ml) was added Na2CO3 (0.859 g, 8.10 mmol) and methyl 4-bromomethylbenzoate (1.13 g, 4.93 mmol). The reaction was stirred at ambient temperature for 60 hours then partitioned between ethyl acetate/H2O. The organic phase was washed with water (x1) dried (MgSO4) and evaporated to give methyl 4-(2-formyl-6-pivaloyloxy-phenoxymethyl)benzoate as a product which was used in subsequent steps without further purification.

reactant | 2-hydroxy-3-pivaloyloxybenzaldehyde | 4.5 mmole, 1.0 g | OC1=C(C=O)C=CC=C1OC(C(C)(C)C)=O | C12H14O4
reactant | Na2CO3 | 8.10 mmol, 0.859 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | methyl 4-bromomethylbenzoate | 4.93 mmol, 1.13 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | methyl 4-(2-formyl-6-pivaloyloxy-phenoxymethyl)benzoate | C(=O)C1=C(OCC2=CC=C(C(=O)OC)C=C2)C(=CC=C1)OC(C(C)(C)C)=O | C21H22O6
